US08461196B2
F. Preparation of (±)-1-(3,4-dichloro-phenyl)-(r/s)-2,3-dimethyl-3-aza-bicyclo[3.1.0]hexane
To a dried, 5 mL round-bottomed flask was added (±)-1-(3,4-dichlorophenyl)-(R/S)-2-methyl-3-aza-bicyclo[3.1.0]hexane, Hunig's Base, and DMF under Ar (g) with stirring. Methyl iodide was added drop wise with stirring over 5 min and the resulting solution stirred under ambient temperature overnight. The solution was concentrated under reduced pressure and purified after drying. The residue was purified by HPLC which failed to remove the impurities. This was further purified on a prep TLC plate eluting with 20/1 CHCl3/MeOH (v/v). The desired band was collected, extracted with CHCl3/MeOH, and concentrated after filtration to afford the desired free base. Yield: 0.005 g 15%; LCMS (+)ESI: m/z=256 [MH]+ (100); 258 [MH+2]+; (65); 1H NMR (300 MHz, CDCl3) : 7.33 (d, H, J=12 Hz, ArH), 7.32 (d, 1H, J=2 Hz, ArH), 7.08 (dd, 1H, J=9 Hz, J=2 Hz, ArH), 3.31 (q, 1H, J=6 Hz, CHNH2), 2.83 (s, 2H, CH2N), 2.32 (s, 3H, NCH3), 1.79 (m, 1H, CH2CH), 1.40 (t(br), 1H, ArCCH2), 0.73 (d, 3H, J=7 Hz, CHCH3), 0.60 (dd, 2H, J=8 Hz, 4 Hz, ArCCH2); 13C NMR (75 MHz, CDCl3) : 131.2, 130.1, 128.9, 61.1, 53.8, 36.5, 21.9, 18.4, 11.6.

reactant | (±)-1-(3,4-dichlorophenyl)-(R/S)-2-methyl-3-aza-bicyclo[3.1.0]hexane | ClC=1C=C(C=CC1Cl)C12C(NCC2C1)C | C12H13Cl2N
reactant | Hunig's Base | CCN(C(C)C)C(C)C | C8H19N
reactant | Methyl iodide | CI | CH3I
solvent | DMF | CN(C)C=O | C3H7NO
product | (±)-1-(3,4-dichloro-phenyl)-(r/s)-2,3-dimethyl-3-aza-bicyclo[3.1.0]hexane | ClC=1C=C(C=CC1Cl)C12C(N(CC2C1)C)C | C13H15Cl2N
